US07091214B2
Thiourea (0.29 g, 3.8 mmol) and potassium iodide (0.052 g, 3.1 mmol) were sequentially added to a suspension of 7-bromo-1-(5-chloropentyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline (1.3 g, 3.2 mmol) in DMF (15 mL), and the reaction was heated at 110° C. for 24 hours. The DMF was removed under reduced pressure, and the residue was partitioned between saturated aqueous sodium bicarbonate (40 mL) and dichloromethane (50 mL). The mixture was adjusted to pH 7 with the addition of 10% hydrochloric acid. Product remained on the walls of the reaction flask and was dissolved with methanol. The resulting solution was concentrated under reduced pressure to provide a solid. The aqueous layer was concentrated under reduced pressure, and the resulting solid was triturated with methanol and isolated by filtration. The filtrate was concentrated under reduced pressure, and the residue was triturated and isolated as described above. The isolated solids were combined and dried under high vacuum to provide 1.49 g of 2-[5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]isothiourea hydrochloride as a yellow solid.

reactant | Thiourea | 3.8 mmol, 0.29 g | NC(=S)N | CH4N2S
reactant | potassium iodide | 3.1 mmol, 0.052 g | [I-].[K+]
reactant | 7-bromo-1-(5-chloropentyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline | 3.2 mmol, 1.3 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCCCl)COCC | C18H21BrClN3O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]isothiourea hydrochloride | 1.49 g | Cl.BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCCSC(N)=N)COCC | InChI=1S/C19H24BrN5OS.ClH/c1-2-26-12-17-24-16-11-23-15-10-13(20)6-7-14(15)18(16)25(17)8-4-3-5-9-27-19(21)22;/h6-7,10-11H,2-5,8-9,12H2,1H3,(H3,21,22);1H
